US05679696
A stirred solution of methyl 3-hydroxy-4(methylthio)benzoate (1.98 g) in dry dimethylformamide (40 mL) is treated with sodium hydride (0.44 g; 60% dispersion in mineral oil; 11 mmol) and the solution is stirred for a further 25 minutes. The reaction mixture is treated with cyclopentyl bromide (1.64 g), stirred at 60° C. for 3 hours, and then concentrated. The resulting residue is partitioned between dichloromethane (50 mL) and water (50 mL), the aqueous layer is extracted with dichloromethane (50 mL), and the combined organic layers are dried and concentrated, to give a red oil. The oil is subjected to flash chromatography, eluting with a mixture of diethyl ether and pentane (1:9 v/v), to give methyl 3-cyclopentyloxy-4-(methylthio)benzoate (1.9 g), m.p. 53°-55° C.

reactant | methyl 3-hydroxy-4(methylthio)benzoate | 1.98 g | OC=1C=C(C(=O)OC)C=CC1SC | C9H10O3S
reactant | sodium hydride | 11 mmol, 0.44 g | [H-].[Na+]
reactant | cyclopentyl bromide | 1.64 g | C1(CCCC1)Br | C5H9Br
solvent | dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
product | methyl 3-cyclopentyloxy-4-(methylthio)benzoate | 1.9 g | C1(CCCC1)OC=1C=C(C(=O)OC)C=CC1SC | C14H18O3S
